US06492403B1
103 mg (0.416 mmol) of methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate (Maybridge Chemical Co. LTD., Cornwall, U.K.) was dissolved in 5 mL of reagent grade acetone. 2-Bromo-4′-methyl acetophenone (0.416 mmol; 89 mg) was added and the solution was allowed to reflux for 3 h. The solution was allowed to cool and crude product was filtered and washed two times with acetone and purified on a 1 mm silica plate eluting with 20% ethyl acetate/hexane to afford 104 mg (69% yield) of methyl 4-[4-(4-methylphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate.

reactant | methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate | 0.416 mmol, 103 mg | NC(C=1C=C(SC1C)C(=S)OC)=S | C8H9NOS3
reactant | 2-Bromo-4′-methyl acetophenone | 0.416 mmol, 89 mg | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
solvent | acetone | CC(=O)C | C3H6O
product | methyl 4-[4-(4-methylphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate | 104 mg, 69% yield | CC1=CC=C(C=C1)C=1N=C(SC1)C=1C=C(SC1C)C(=S)OC | C17H15NOS3
